US06787539B2
To a solution of 1.83g (5.80 mmol) (2-methyl-4-o-tolyloxy-pyrimidin-5-yl)-carbamic acid tert.-butyl ester in 25 ml N,N-dimethylformamide 0.35 g (68.7 mmol) sodiumhydride (60% dispersion in mineraloil) was added and the reaction mixture stirred for 1 h. After the addition of 0.65 ml (10.4 mmol) methyl iodide at 0°, the reaction mixture was stirred for 2 hrs. The reaction mixture was poured into 100 ml ice-water and three times extracted with 80 ml CH2Cl2. The combined organic layers were dried (Na2SO4), filtered and evaporated. The residue was purified by chromatography (SiO2, CH2Cl2/ethyl acetate 40:1) to give 1.90 g (99%) methyl-(2-methyl-4-o-tolyloxy-pyrimidin-5-yl)-carbamic acid tert.-butyl ester as a colorless oil, MS (ISP): 330.4 (M+H)+.

reactant | (2-methyl-4-o-tolyloxy-pyrimidin-5-yl)-carbamic acid tert.-butyl ester | 5.80 mmol, 1.83g | C(C)(C)(C)OC(NC=1C(=NC(=NC1)C)OC1=C(C=CC=C1)C)=O | C17H21N3O3
reactant | N,N-dimethylformamide | 68.7 mmol, 25 ml, 0.35 g | CN(C=O)C | C3H7NO
reactant | methyl iodide | 10.4 mmol, 0.65 ml | CI | CH3I
product | methyl-(2-methyl-4-o-tolyloxy-pyrimidin-5-yl)-carbamic acid tert.-butyl ester | 1.90 g, 99% | C(C)(C)(C)OC(N(C=1C(=NC(=NC1)C)OC1=C(C=CC=C1)C)C)=O | C18H23N3O3
